US06452014B1
To a solution of 6-bromoquinaldine (111 mg, 0.500 mmol) in 1,4-dioxane (8 mL) was added selenium dioxide (111 mg, 1.00 mmol), and the mixture was heated at 100° C. for 1 h. The reaction mixture was diluted with ethyl acetate, filtered through Celite pad, and concentrated under reduced pressure. To the residue were added methanol (15 mL) and p-toluenesulfonic acid monohydrate (99 mg, 0.52 mmol), and the mixture was heated to reflux for 1.5 h. Diluted aqueous sodium hydroxide was added, and the mixture was extracted with ethyl acetate. The organic layer was washed with brine and dried on anhydrous sodium sulfate. The solvent was evaporated under reduced pressure to afford 6-bromo-2-(dimethoxymethyl)quinoline (127 mg, 90%).

reactant | 6-bromoquinaldine | 0.500 mmol, 111 mg | BrC=1C=C2C=CC(=NC2=CC1)C | C10H8BrN
reactant | selenium dioxide | 1.00 mmol, 111 mg | [Se](=O)=O | O2Se
reactant | p-toluenesulfonic acid monohydrate | 0.52 mmol, 99 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | sodium hydroxide | [OH-].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | 1,4-dioxane | 8 mL | O1CCOCC1 | C4H8O2
solvent | methanol | 15 mL | CO | CH4O
product | 6-bromo-2-(dimethoxymethyl)quinoline | 127 mg, 90% | BrC=1C=C2C=CC(=NC2=CC1)C(OC)OC | C12H12BrNO2
